US05977177
3-Sulfonylamino-4-ethoxyphenylacetic acid
5 g of 3-sulfonylamino-4-methoxyphenylacetic acid were dissolved in 3 ml of DMF and stirred at 40° C. for 30 minutes with 245 mg of sodium hydroxide. 328 mg of methyl isothiocyanate were added thereto and the mixture was stirred for a further 2 h at 70° C. 2N hydrochloric acid was added to the cooled solution and the product was filtered off with suction. M.p. 1740° C.

reactant | 3-sulfonylamino-4-methoxyphenylacetic acid | 5 g | S(=O)(=O)=NC=1C=C(C=CC1OC)CC(=O)O | C9H9NO5S
reactant | sodium hydroxide | 245 mg | [OH-].[Na+]
reactant | methyl isothiocyanate | 328 mg | CN=C=S | C2H3NS
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-Sulfonylamino-4-ethoxyphenylacetic acid | S(=O)(=O)=NC=1C=C(C=CC1OCC)CC(=O)O | C10H11NO5S
